US04925879
A solution of 1-[1(4-chlorophenyl)cyclobutyl]-2-methylsulphonylvinylamine (10 g), ammonium acetate (5 g), glacial acetic acid (7 ml) and sodium cyanoborohydride (5 g) in methanol (250 ml) was kept at room temperature for 12 days. The mixture was poured into water (750 ml) basified to pH 11 and extracted with dichloromethane. The organic extracts were washed with brine, dried and evaporated to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylsulphonylethylamine (m.p. 134°-135°).

reactant | 1-[1(4-chlorophenyl)cyclobutyl]-2-methylsulphonylvinylamine | 10 g | ClC1=CC=C(C=C1)C1(CCC1)C(=CS(=O)(=O)C)N | C13H16ClNO2S
reactant | ammonium acetate | 5 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 750 ml | O | H2O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylsulphonylethylamine | ClC1=CC=C(C=C1)C1(CCC1)C(CS(=O)(=O)C)N | C13H18ClNO2S
